US07851473B2
(2) 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide
A mixed solution of bis(2,2,2-trichloroethyl)pyridin-3-ylimidodicarbonate (359 mg, 0.810 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (396 mg, 1.62 mmol) and diisopropylethylamine (0.281 ml, 1.62 mmol) in dimethyl sulfoxide (2.7 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (100% ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 82.0 mg (27.8%) of the desired product as a solid. mp 74-75° C.

reactant | bis(2,2,2-trichloroethyl)pyridin-3-ylimidodicarbonate | 0.810 mmol, 359 mg | ClC(COC(=O)N(C(=O)OCC(Cl)(Cl)Cl)C=1C=NC=CC1)(Cl)Cl | C11H8Cl6N2O4
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 1.62 mmol, 396 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.62 mmol, 0.281 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.7 ml | CS(=O)C | C2H6OS
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide | 82.0 mg, 27.8% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H19N5OS
